US06300334B1
b) 3-Methyl-1-(2-methylpropyl)-6-(3-pyridinylmethylidene)thieno[2,3-d]pyrimidine-2,4,5(1H,3H,6H)-trione
Methyl 2-[(1,2,3,6-tetrahydro-1,3-dimethyl-2,6-dioxo-4-pyrimidinyl)thio]acetate (2.83 g) and pyridine-3-carboxaldehyde (2.9 ml) were dissolved in methanesulfonic acid (28 ml) and the mixture was heated to 110° C. for 18 h. The reaction was allowed to cool and was then extracted thrice with dichloromethane. The organic phases were washed with sodium bicarbonate (aqueous) and brine, dried, filtered and evaporated to give a brown residue. The aqueous phase was made alkaline by addition of sodium hydroxide and was then extracted thrice with dichloromethane, the extracts were dried, filtered and evaporated to give a second crop. Chromatography of the two batches of impure product (eluent ethyl acetate) gave the subtitle compound (2.00 g).

reactant | Methyl 2-[(1,2,3,6-tetrahydro-1,3-dimethyl-2,6-dioxo-4-pyrimidinyl)thio]acetate | 2.83 g | CN1C(N(C(=CC1=O)SCC(=O)OC)C)=O | C9H12N2O4S
reactant | pyridine-3-carboxaldehyde | 2.9 ml | N1=CC(=CC=C1)C=O | C6H5NO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | methanesulfonic acid | 28 ml | CS(=O)(=O)O | CH4O3S
product | 3-Methyl-1-(2-methylpropyl)-6-(3-pyridinylmethylidene)thieno[2,3-d]pyrimidine-2,4,5(1H,3H,6H)-trione | 2.00 g | CN1C(N(C2=C(C1=O)C(C(S2)=CC=2C=NC=CC2)=O)CC(C)C)=O | C17H17N3O3S
